US05520902
A process according to claim 7 wherein said aqueous solution of sodium sulfate is produced by treating an aqueous solution of sodium chromate with sulfuric acid, sodium bisulfate, or a mixture thereof to produce sodium bichromate, evaporating water to precipitate sodium sulfate cake, and separating said precipitated sodium sulfate from said aqueous solution of sodium sulfate.

reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium chromate | [Cr](=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
product | sodium bichromate | [O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-].[Na+].[Na+] | InChI=1S/2Cr.2Na.7O/q;;2*+1;;;;;;2*-1
